US08030334B2
A flask is charged with 6-chloro-2-(5-formyl-pyridin-3-yl)-1-methyl-1H-indole (10 g, 36.9 mmol) and acetonitrile (1 L), and chlorosulfonyl isocyanate (15.68 g, 111 mmol) is added at 0° C. The mixture is stirred for 10 min. DMF (18.9 g, 259 mmol) is added at 0° C. The mixture is stirred for 1.5 h. Saturated NaHCO3 (20 mL) and triethylamine (51.5 mL, 369 mmol) are added to the reaction mixture, which is stirred for 10 min. The mixture is concentrated in vacuo to give a residue which is purified by silica gel flash chromatography eluting with a 0 to 5% methanol-DCM gradient to give 6-chloro-2-(5-formyl-pyridin-3-yl)-1-methyl-1H-indole-3-carbonitrile. MS (ESI) m/z 296.0, 297.8 (M+H)+.

reactant | 6-chloro-2-(5-formyl-pyridin-3-yl)-1-methyl-1H-indole | 36.9 mmol, 10 g | ClC1=CC=C2C=C(N(C2=C1)C)C=1C=NC=C(C1)C=O | C15H11ClN2O
reactant | chlorosulfonyl isocyanate | 111 mmol, 15.68 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | DMF | 259 mmol, 18.9 g | CN(C)C=O | C3H7NO
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | triethylamine | 369 mmol, 51.5 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
product | 6-chloro-2-(5-formyl-pyridin-3-yl)-1-methyl-1H-indole-3-carbonitrile | ClC1=CC=C2C(=C(N(C2=C1)C)C=1C=NC=C(C1)C=O)C#N | C16H10ClN3O
